US05576322
2,6-Dichloro-4-(3,4-methylenedioxybenzyl)aminoquinazoline
A mixture comprising 3.6 g of 2,4,6-trichloroquinazoline, 2.4 g of piperonylamine, 1.6 g of triethylamine and 50 ml of isopropyl alcohol was heated under reflux for 1.5 hours and hot-filtered to give 5.2 g of the title compound as a filter cake.

reactant | 2,4,6-trichloroquinazoline | 3.6 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | piperonylamine | 2.4 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | 2,6-Dichloro-4-(3,4-methylenedioxybenzyl)aminoquinazoline | 5.2 g | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C16H11Cl2N3O2
